US05373023
1.3 5,6,7,8-tetrahydro-2-naphthyl trifluoromethanesulphonate
17.5 g (0.12 mol) of 5,6,7,8-tetrahydro-2-naphthol, 28.86 g (0.24 mol) of 4-dimethylaminopyridine, 20.64 ml (0.18 mol) of 2,6-dimethylpyridine and 400 ml of dichloromethane are placed in a 1-liter round-bottomed flask. The mixture is cooled to -30° C. under argon. 50 g (0.18 mol) of trifluoromethanesulphonic anhydride in 120 ml of dichloromethane are added dropwise, and the mixture is then allowed to return to room temperature. 500 ml of dichloromethane are then added and the organic phase is washed successively with 200 ml of 1N hydrochloric acid, three times 200 ml of water, 200 ml of saturated sodium hydrogen carbonate solution, twice 200 ml of water and 200 ml of saturated sodium chloride solution. It is dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on a column of silica gel, eluting with hexane.

reactant | 5,6,7,8-tetrahydro-2-naphthol | 0.12 mol, 17.5 g | C1=C(C=CC=2CCCCC12)O | C10H12O
reactant | 2,6-dimethylpyridine | 0.18 mol, 20.64 ml | CC1=NC(=CC=C1)C | C7H9N
reactant | trifluoromethanesulphonic anhydride | 0.18 mol, 50 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 0.24 mol, 28.86 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 5,6,7,8-tetrahydro-2-naphthyl trifluoromethanesulphonate | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1)(F)F | C11H11F3O3S
